US08278316B2
A. 4-((4-Chlorophenoxy)methyl)-2-(methylthio)pyrimidine
To a solution of (2-(methylthio)pyrimidin-4-yl)methanol (US 2005/0148610) (0.515 g, 3.30 mmol), 4-chlorophenol (0.466 g, 3.63 mmol), and triphenylphosphine (1.297 g, 4.95 mmol) in THF (10 mL) was added a solution of 1,1′-(azodicarbonyl)dipiperidine (1.248 g, 4.95 mmol) in THF (10 mL) dropwise. After stirring the reaction at RT overnight, the solids were filtered. The filtrate was diluted with EtOAc (30 mL), washed with water (20 mL) and by brine. The organic phase was dried (Na2SO4) and concentrated to afford the crude product. The crude product was purified using flash chromatography (silica gel/hexanes-ethyl acetate 100:0 to 0:100 gradient) to afford the desired product 4-((4-chlorophenoxy)methyl)-2-(methylthio)pyrimidine 6A (0.825 g, 3.09 mmol, 94% yield) as a light yellow solid. 1H NMR (400 MHz, Chloroform-D) δ 8.45 (1H, d, J=5.02 Hz), 7.18 (2H, d, J=8.78 Hz), 7.07-7.13 (1H, m), 6.80 (2H, d, J=8.78 Hz), 4.99 (2H, s), 2.51 (3H, s).

reactant | (2-(methylthio)pyrimidin-4-yl)methanol | 3.30 mmol, 0.515 g | CSC1=NC=CC(=N1)CO | C6H8N2OS
reactant | 4-chlorophenol | 3.63 mmol, 0.466 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | triphenylphosphine | 4.95 mmol, 1.297 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 4.95 mmol, 1.248 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-((4-chlorophenoxy)methyl)-2-(methylthio)pyrimidine | 3.09 mmol, 0.825 g, 94% yield | ClC1=CC=C(OCC2=NC(=NC=C2)SC)C=C1 | C12H11ClN2OS
